US09125901B2
N-(3-Dimethylaminopropyl)-N′-ethylcarbodiimide (EDC, 200 mg, 1.44 mg) is added to a solution of N-(2-methoxyethyl)-3-nitrobiphenyl-4-amine (119 mg, 0.48 mmol) and methyl 4-isothiocyanatobenzoate (83 mg, 0.43 mmol) in tetrahydrofuran. The reaction may reflux for an appropriate time period, such as 2 hours and cooled. The mixture may be diluted with ethyl acetate, filtered and concentrated. The residue may be purified by any appropriate method including Biotage column chromatography to give methyl 4-(1-(2-methoxyethyl)-5-phenyl-1H-benzo[d]imidazol-2-ylamino)benzoate (96 mg)

reactant | N-(3-Dimethylaminopropyl)-N′-ethylcarbodiimide | 200 mg | CN(CCCN=C=NCC)C | C8H17N3
reactant | N-(2-methoxyethyl)-3-nitrobiphenyl-4-amine | 0.48 mmol, 119 mg | COCCNC1=C(C=C(C=C1)C1=CC=CC=C1)[N+](=O)[O-] | C15H16N2O3
reactant | methyl 4-isothiocyanatobenzoate | 0.43 mmol, 83 mg | N(=C=S)C1=CC=C(C(=O)OC)C=C1 | C9H7NO2S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 4-(1-(2-methoxyethyl)-5-phenyl-1H-benzo[d]imidazol-2-ylamino)benzoate | 96 mg | COCCN1C(=NC2=C1C=CC(=C2)C2=CC=CC=C2)NC2=CC=C(C(=O)OC)C=C2 | C24H23N3O3
